US07569593B2
To a solution of 4-[5-(7-benzyloxy-naphthalen-1-yl)-2-phenyl-1H-imidazol-4-yl]-pyridine (810 mg, 1.79 mmol) in methanol (50 mL) and tetrahydrofuran (10 mL) is added 10% Pd/C (100 mg) and the mixture is stirred for 3 hours under hydrogen atmosphere (1 atm). The catalyst is filtered and washed with ethyl acetate. The filtrate is concentrated and silica gel chromatography (CH2Cl2/EtOAc=1/1) afforded 8-(2-phenyl-5-pyridin-4-yl-3H-imidazol-4-yl)-naphthalen-2-ol (520 mg, 80% yield) as a syrup; 1H NMR 400 Hz (CD3OD) δ 6.89 (d, J=2.32 Hz, 1H), 7.17 (dd, J=2.38, 8.89 Hz, 1H), 7.48 (dd, J=7.15, 8.21 Hz, 1H), 7.55 (m, 3H), 7.66 (dd, J=1.09, 7.04 Hz, 1H), 7.91 (d, J=8.93 Hz, 1H), 7.95 (d, J=7.03 Hz, 3H), 8.04 (d, J=8.24 Hz, 1H), 8.10 (m, 2H), 8.47 (d, J=7.02 Hz, 2H); MS m/z (M+H+) 364.20.

reactant | 4-[5-(7-benzyloxy-naphthalen-1-yl)-2-phenyl-1H-imidazol-4-yl]-pyridine | 1.79 mmol, 810 mg | C(C1=CC=CC=C1)OC1=CC=C2C=CC=C(C2=C1)C1=C(N=C(N1)C1=CC=CC=C1)C1=CC=NC=C1 | C31H23N3O
reactant | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
solvent | methanol | 50 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 8-(2-phenyl-5-pyridin-4-yl-3H-imidazol-4-yl)-naphthalen-2-ol | 520 mg, 80% yield | C1(=CC=CC=C1)C1=NC(=C(N1)C=1C=CC=C2C=CC(=CC12)O)C1=CC=NC=C1 | C24H17N3O
